US08541409B2
(R)-carbamic acid 3-[4-(4-amino-phenyl)-piperazin-1-yl]-3-oxo-1-phenyl-propyl ester
(R)-3-hydroxy-3-phenylpropionic acid (3.0 mmole) and 4-nitro phenylpiperazine (3 mmole) were dissolved in 20 mL of tetrahydrofuran at a room temperature, and EDC (6.0 mmole, 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide) and HOBt (6 mmole, N-Hydroxybenzotriazole) were added dropwise to the mixture. Then, the resulting mixture was stirred at 25° C. for 5 hours. 20 mL of ethyl acetate was added three times to the mixture to extract an organic phase, and the prepared organic phase was dried over anhydrous magnesium sulfate (2 g), and filtered, and the resulting filtrate was concentrated under a reduced pressure, and purified with column chromatography (hexane:ethyl acetate=1:1). The resulting reaction product (1 mmol) was dissolved in methanol (20 mL), and subject to the reduction reaction at the presence of a palladium on charcoal (Pd/C) for 5 hours. The resulting reduction reaction product was concentrated under a reduced pressure to remove methanol, and extracted several times with ethyl acetate to separate an organic phase. The prepared organic phase was dried over anhydrous magnesium sulfate, and filtered, and the resulting filtrate was concentrated under a reduced pressure to obtain an intermediate reduced to an amino group (NH2). The intermediate reaction product prepared thus was dissolved in hydrofuran (10 mL), and 1,1′-carbodiimidazole (2 mmol) was added to the reaction product, and stirred at a room temperature for 1 hour. Then, excessive ammonium hydroxide was added to the resulting reaction mixture, and the reaction mixture was stirred at a room temperature for additional 2 hours. The resulting reaction mixture was diluted with water, and extracted several times with ethyl acetate to obtain an organic phase. The prepared organic phase was dried over magnesium sulfate, and concentrated under a reduced pressure. The resulting pellet was purified with column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) to obtain a title compound.

reactant | (R)-3-hydroxy-3-phenylpropionic acid | 3.0 mmole | O[C@H](CC(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | 4-nitro phenylpiperazine | 3 mmole | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | EDC | 6.0 mmole
reactant | HOBt | 6 mmole | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | hydrofuran | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)-carbamic acid 3-[4-(4-amino-phenyl)-piperazin-1-yl]-3-oxo-1-phenyl-propyl ester | NC1=CC=C(C=C1)N1CCN(CC1)C(C[C@H](C1=CC=CC=C1)OC(N)=O)=O | C20H24N4O3
